US07964607B2
(a) 6-[(3S,4S)-4-ethylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one
Following the procedure for the preparation of 6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one but substituting 6-[(3S,4S)-1-benzyl-4-ethylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one provided the title compound. 400 MHz 1H NMR (CD3OD) δ 8.02 (s, 1H), 4.97 (m, 1H), 4.09-4.06 (m, 2H), 3.78-3.58 (m, 4H), 3.34-3.34 (m, 1H), 3.16-3.11 (m, 1H), 2.68 (d, J=8.7 Hz, 1H), 2.63 (m, 1H), 2.32-2.27 (m, 2H), 1.90-1.87 (m, 2H), 1.69 (m, 1H), 1.57 (m, 1H), 0.97 (t, J=7.5 Hz, 3H). MS: (M+H m/z 318.2).

reactant | 6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one | C[C@H]1[C@@H](CNC1)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C15H21N5O2
reactant | 6-[(3S,4S)-1-benzyl-4-ethylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)CC)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C23H29N5O2
product | 6-[(3S,4S)-4-ethylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one | C(C)[C@H]1[C@@H](CNC1)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C16H23N5O2
